US05015640
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6carbonitrile and α-methylbenzyl alcohol, there is obtained α-methylbenzyl 5,7-dihydro-6H-dibenz[c,e]-azepine-6-carboximidate as a resin, mass spectrum m/e: [M+ 342 (5), 237 (60), 194 (100), 105 (63);

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | α-methylbenzyl alcohol | CC(C1=CC=CC=C1)O | C8H10O
product | α-methylbenzyl 5,7-dihydro-6H-dibenz[c,e]-azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OC(C3=CC=CC=C3)C)=N | C23H22N2O
